US08541411B2
d) 2-(1-methylethyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazol-4-amine
TiCl3 (16.3 mL) was added to a solution of 2-(1-methylethyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-4-nitro-1H-benzimidazole (1.6 g) and NH4OAc (4 g) in MeOH (40 mL). After stirring for 4 h at room temperature, TLC showed no starting material. The pH of the mixture was made basic by adding Na2CO3 aqueous solution. The solvent was evaporated off under reduced pressure and the residue was extracted with DCM (250 mL×2). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in-vacuo to afford the desired product as a white solid (1.2 g, 81%). LC-MS: m/e=401 [M+1]+.

reactant | 2-(1-methylethyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-4-nitro-1H-benzimidazole | 1.6 g | CC(C)C1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2[N+](=O)[O-])N2CCOCC2 | C25H26N4O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 40 mL | CO | CH4O
product | 2-(1-methylethyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazol-4-amine | 1.2 g, 81% | CC(C)C1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2N)N2CCOCC2 | C25H28N4O
